US06348474B1
7-Carboxy-3-(2,4-dichlorobenzyl)-4(3H)-quinazolinone
3-(2,4-Dichlorobenzyl)-7-(methoxycarbonyl)-4(3H)-quinazolinone (2.00 g) in a mixture of a 5% aqueous sodium hydroxide solution (20 ml) and methanol (20 ml) was heated under reflux for 1 hr. After cooling, concentrated hydrochloric acid was added to the reaction mixture and the precipitate was collected by filtration. The precipitate was washed with water (50 g) and toluene (30 ml) and dried to give the objective compound (1.50 g) as white crystals.

reactant | 3-(2,4-Dichlorobenzyl)-7-(methoxycarbonyl)-4(3H)-quinazolinone | 2.00 g | ClC1=C(CN2C=NC3=CC(=CC=C3C2=O)C(=O)OC)C=CC(=C1)Cl | C17H12Cl2N2O3
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 7-Carboxy-3-(2,4-dichlorobenzyl)-4(3H)-quinazolinone | 1.50 g | C(=O)(O)C1=CC=C2C(N(C=NC2=C1)CC1=C(C=C(C=C1)Cl)Cl)=O | C16H10Cl2N2O3
